US08461348B2
2-amino-1-[3-(trifluoromethyl)phenyl]ethanone hydrochloride
A mixture of 2-bromo-1-[3-(trifluoromethyl)phenyl]ethanone (22 g), NaN(CHO)2 (9.5 g) and acetonitrile (50 mL) was stirred at room temperature for 3 hr and at 70° C. overnight, and the insoluble material was removed by filtration. The filtrate was concentrated to give an oil. The oil was dissolved in hydrogen chloride-ethanol, and the mixture was stirred at room temperature for 48 hr. The resulting precipitate was collected by filtration, and washed with ether to give the title compound (2.7 g) as a solid. The filtrate was concentrated, and the residue was dissolved in water. The aqueous layer was washed with ether, and the solvent was evaporated under reduced pressure to give the title compound (7.0 g).

reactant | 2-bromo-1-[3-(trifluoromethyl)phenyl]ethanone | 22 g | BrCC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H6BrF3O
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
reactant | hydrogen chloride ethanol | Cl.C(C)O
product | 2-amino-1-[3-(trifluoromethyl)phenyl]ethanone hydrochloride | 2.7 g | Cl.NCC(=O)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C9H8F3NO.ClH/c10-9(11,12)7-3-1-2-6(4-7)8(14)5-13;/h1-4H,5,13H2;1H
